US08252755B2
Preparation of 5-((bis(4-methoxyphenyl)(phenyl)methoxy)methyl)pyrrolidin-3-ol (XI)
(9H-Fluoren-9-yl)methyl 2-((bis(4-methoxyphenyl)(phenyl)-methoxy)methyl)-4-hydroxypyrrol-idine-1-carboxylate (3.4 g, 5.3 mmoles) is dissolved in anhydrous N,N-dimethylformamide (15 mL). The solution is stirred at ambient temperature, and piperidine (1.1 mL, 11. mmoles) is added. After 1 hour, a copious white precipitate has formed. Water (100 mL) and ethyl acetate (75 mL) are added, and the mixture is stirred until all of the solid has dissolved. The layers are separated and the aqueous layer is extracted with ethyl acetate (75 mL). The combined ethyl acetate layers are washed with saturated aqueous sodium bicarbonate (50 mL) then saturated aqueous sodium chloride (50 mL), dried over anhydrous sodium sulfate and filtered. The filtrate is evaporated to an amorphous white solid. The crude product is purified on silica gel (150 mL bed volume) eluting with methylene chloride:methanol:triethylamine (94:1:5 [v/v/v], 700 mL; then 90:5:5 [v/v/v], 700 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to a white glassy foam, which is dried well in vacuo. The yield is 2.2 g (99%).

reactant | (9H-Fluoren-9-yl)methyl 2-((bis(4-methoxyphenyl)(phenyl)-methoxy)methyl)-4-hydroxypyrrol-idine-1-carboxylate | 5.3 mmoles, 3.4 g | COC1=CC=C(C=C1)C(OCC1N(CC(C1)O)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C41H39NO6
reactant | piperidine | 1.1 mL | N1CCCCC1 | C5H11N
reactant | Water | 100 mL | O | H2O
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-((bis(4-methoxyphenyl)(phenyl)methoxy)methyl)pyrrolidin-3-ol | COC1=CC=C(C=C1)C(OCC1CC(CN1)O)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C26H29NO4
